US04462819
Preparation 2-Hydroxyaminobenzeneboronic Acid Hydrochloride
Into a Parr shaker hydrogenation apparatus fitted with a hydrogen source and Parr bomb was charged 0.1 gm of a palladium on carbon hydrogenation catalyst obtained from Aldrich Chemical Co. under the trade designation Palladium on Carbon, 100 mL of methanol containing 1 equivalent of hydrochloric acid, and 0.8 gm of 2-nitrophenyl-boronic acid prepared in accordance with the procedure described in W. Leaman and J. R. Johnson, J. Am. Chem. Soc., 1931, 53, 711. The apparatus was sealed and was flushed with hydrogen gas and maintained under 42 psi of hydrogen at a temperature of 24° C. for 4 hr. Solids were then removed by filtration, and the filtrate was vacuum concentrated. The tan, hygroscopic solid product (mp 185°-187° C. (dec)) was isolated by filtration:

reactant | hydrogen | [H][H] | H2
reactant | methanol | 100 mL, 1 equivalent | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | 2-nitrophenyl-boronic acid | 0.8 gm | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
catalyst | palladium on carbon | 0.1 gm | [Pd] | Pd
product | 2-Hydroxyaminobenzeneboronic Acid Hydrochloride | Cl.ONC1=C(C=CC=C1)B(O)O | InChI=1S/C6H8BNO3.ClH/c9-7(10)5-3-1-2-4-6(5)8-11;/h1-4,8-11H;1H
